US03933824
2-methylindole (26.2 g) dissolved in dry ether (100 ml) was added dropwise to the Grignard reagent prepared from 4.9 g of magnesium and 31.2 g of ethyl iodide in 100 ml of dry ether at 20°-25°C and the mixture was gently refluxed until the evolution of ethane ceased. 1-(β-Chloropropionyl)-4-phenylpiperazine (55.6 g) dissolved in dry ether (100 ml) was then slowly added to the resulting reaction mixture at a temperature below 20°C. At first the addition of the latter caused the precipitation of yellowish viscid solid, which finally became cherry-red. After the addition was completed, ether was distilled off under ordinary pressure and the viscid solid mass which remained was heated on a steam bath for 3 hours, and then cooled. The resulting reaction mixture was agitated vigorously with 250 ml of benzene and 200 ml of a 5 % aqueous solution of acetic acid. The benzene layer which was separated was washed with a 10 % aqueous solution of sodium carbonate and water, dried over anhydrous sodium sulfate and concentrated to dryness. The residual solid was recrystallized from ethanol to give 1-[β-(2-methyl-3-indolyl)propionyl]-4-phenylpiperazine, melting at 121°-122°C.

reactant | 2-methylindole | 26.2 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | magnesium | 4.9 g | [Mg] | Mg
reactant | ethyl iodide | 31.2 g | C(C)I | C2H5I
reactant | ethane | CC | C2H6
reactant | 1-(β-Chloropropionyl)-4-phenylpiperazine | 55.6 g | ClCCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C13H17ClN2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 1-[β-(2-methyl-3-indolyl)propionyl]-4-phenylpiperazine | CC=1NC2=CC=CC=C2C1CCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C22H25N3O
